US07589095B2
A solution of 4-(3-benzyloxy-propyl)-6-trimethylstannanyl-pyrimidine-2-carbonitrile (100 mg), trifluoromethylbromobenzene (36□μL) and 1,1′-(bistriphenylphosphino)ferrocenedichloropalladium(II) (16 mg) in dimethylformamide (5 mL) was heated in microwave at 150° C. for 5 min. The resulting suspension was diluted with ethyl acetate and water (20 mL), the organic layer being separated, dried over sodium sulphate and evaporated at reduced pressure. Flash silica chromatography afforded 4-(3-benzyloxy-propyl)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile as a yellow gum (47 mg).

reactant | 4-(3-benzyloxy-propyl)-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 100 mg | C(C1=CC=CC=C1)OCCCC1=NC(=NC(=C1)[Sn](C)(C)C)C#N
reactant | trifluoromethylbromobenzene | FC(F)(F)C1=C(C=CC=C1)Br | C7H4BrF3
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 4-(3-benzyloxy-propyl)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 47 mg | C(C1=CC=CC=C1)OCCCC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C22H18F3N3O
